* Five-Transistor CMOS OTA (Operational Transconductance Amplifier)
* The textbook analog-IC input stage that shows up inside nearly
* every CMOS op-amp: two NMOS input devices (M1, M2) form a
* differential pair, two PMOS devices (M3, M4) act as an active
* current-mirror load so the differential drain current is
* reflected to a single-ended output, and a tail current source I1
* sets the bias. The AC differential gain is approximately gm1 *
* (ro2 || ro4); plotting the output vs Vin-diff across frequency
* produces the standard single-pole OTA response.
* Devices exercised: V, I (current source), M (NMOS BSS123 x2 +
*                    PMOS BSS84 x2), R, C.

.title 5-Transistor CMOS OTA

* --- Supplies ---
Vdd vdd 0 DC 5
Vss vss 0 DC -5

* --- Common-mode bias and small-signal differential pair inputs ---
Vcm  cm  0  DC 0
Vinp inp cm AC 0.5
Vinn inn cm AC -0.5

* --- Tail current source pulling to Vss ---
Itail tail vss DC 100u

* --- Input NMOS differential pair (drains go to the current-mirror load) ---
M1 d1 inp tail tail BSS123
M2 d2 inn tail tail BSS123

* --- PMOS current-mirror load (M3 diode-connected, M4 mirrors) ---
M3 d1 d1 vdd vdd BSS84
M4 d2 d1 vdd vdd BSS84

* --- Resistive + capacitive output load so the single pole is visible ---
Rload d2 0 1Meg
Cload d2 0 1p

* --- Analysis ---
.ac dec 20 1 1G

.MEASURE AC a_dc   FIND vdb(d2) AT=1
.MEASURE AC a_1khz FIND vdb(d2) AT=1k
.MEASURE AC a_1meg FIND vdb(d2) AT=1Meg

.end
